US08871767B2
2-bromo-1-(4-methyl-3-nitro-phenyl)ethanone
A solution of 1-(4-methyl-3-nitro-phenyl)ethanone (Sigma-Aldrich, 25.08 g, 0.14 mol) in CH2Cl2 (269 mL) is cooled to 0° C. To this is added bromine (7.17 mL, 0.14 mol) at 0° C. with stirring. The reaction mixture is allowed to warm slowly to rt over a total of 90 minutes. Ice water (500 mL) is added, organics are collected and aqueous layer is extracted with CH2Cl2 (2×250 mL). The organic layers are combined, washed with water, dried with Na2SO4 and concentrated to give the title compound (36.1 g, 99% yield). LCMS m/z=258.3, 260.2 [M+H]+, tR=2.39 min.

reactant | 1-(4-methyl-3-nitro-phenyl)ethanone | 0.14 mol, 25.08 g | CC1=C(C=C(C=C1)C(C)=O)[N+](=O)[O-] | C9H9NO3
reactant | bromine | 0.14 mol, 7.17 mL | BrBr | Br2
solvent | CH2Cl2 | 269 mL | C(Cl)Cl | CH2Cl2
product | 2-bromo-1-(4-methyl-3-nitro-phenyl)ethanone | 36.1 g, 99% yield | BrCC(=O)C1=CC(=C(C=C1)C)[N+](=O)[O-] | C9H8BrNO3
